US07888349B2
Potassium tert-butoxide (110 mL of a 1 M solution in THF) was added to a solution of tert-butyl 3-[7-bromo-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate (41.63 g, 91.74 mmol) in THF (400 mL). The reaction was stirred for ten minutes at ambient temperature and concentrated under reduced pressure to provide tert-butyl 3-bromo-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate in a crude mixture which was used without purification in Part E.

reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tert-butyl 3-[7-bromo-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propylcarbamate | 91.74 mmol, 41.63 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCNC(OC(C)(C)C)=O)CCl | C19H22BrClN4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-bromo-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | BrC1=CC=C2C3=C(C=NC2=C1)N=C1N3CCCN(C1)C(=O)OC(C)(C)C | C19H21BrN4O2
